US07557114B2
(b) 5-(5-Methyl-thiophen-3-yl)-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A3(e) from 5-(5-Methyl-thiophen-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and using trifluoacetic acid instead of hydrochloride acid. Light yellow solid. MS (m/e): 216.1 ([M+H]+, 100%)

reactant | 5-(5-Methyl-thiophen-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)C1=CSC(=C1)C | C18H21NO2S
reactant | hydrochloride | Cl | ClH
product | 5-(5-Methyl-thiophen-3-yl)-2,3-dihydro-1H-isoindole | CC1=CC(=CS1)C=1C=C2CNCC2=CC1 | C13H13NS
